*********** Unit Under Test ********************
** Cell name: Single-Ended Folded Voltage Combiners
**
** Circuit from the paper 	Povoa, R.; Lourenco, N.; Horta, N.; Santos-Tavares, R.; Goes, J., 
**	"Single-stage amplifiers with gain enhancement and improved energy-efficiency employing voltage-combiners," 
**	in Very Large Scale Integration (VLSI-SoC), 2013 IFIP/IEEE 21st International Conference on , vol., no., pp.19-22, 7-9 Oct. 2013
**  doi: 10.1109/VLSI-SoC.2013.6673238

.subckt ss_vc_ota cmfb gnd vdd vin vip von vop
xmnm4 net15  vip     crossa crossa   nmos3v3 w='_w4'     l='_l4'    fingers='_nf4'
xmnm6 vdd    vip     crossb crossb   nmos3v3 w='_w6'     l='_l6'    fingers='_nf6'
xmnm8 crossb vin     gnd     gnd     nmos3v3 w='_w8'     l='_l8'    fingers='_nf8'
xmnm10 von   cmfb    gnd     gnd     nmos3v3 w='_w10'   l='_l10'   fingers='_nf10'
xmnm11 vop   cmfb    gnd     gnd     nmos3v3 w='_w10'   l='_l10'   fingers='_nf10'
xmnm5 net024 vin     crossb crossb   nmos3v3 w='_w4'     l='_l4'    fingers='_nf4'
xmnm7 vdd    vin     crossa crossa   nmos3v3 w='_w6'     l='_l6'    fingers='_nf6'
xmnm9 crossa vip     gnd     gnd     nmos3v3 w='_w8'     l='_l8'    fingers='_nf8'
xmpm0 von    net15   vdd     vdd     pmos3v3 w='_w0'     l='_l0'    fingers='_nf0'
xmpm1 net15  net15   vdd     vdd     pmos3v3 w='_w1'     l='_l1'    fingers='_nf1'
xmpm3 vop    net024  vdd     vdd     pmos3v3 w='_w0'     l='_l0'    fingers='_nf0'
xmpm2 net024 net024  vdd     vdd     pmos3v3 w='_w1'     l='_l1'    fingers='_nf1'
.ends
** End of subcircuit definition.
